US06800623B2
4-methyl-3,3-dioxo-4,5-dihydro-3H-1,3-dithia-4-aza-acenaphthylene-6-carbonitrile
1 g of 6-bromo-4-methyl-4,5-dihydro-1,3-dithia-4-aza-acenaphthylene-3,3-dioxide is added to 0.32 g of copper (I) cyanide and 10 ml of pyridine. The reaction mixture is heated to 190° C. for 7 h, then poured onto 10 ml of ammonia solution and combined with water and ether (30 ml of each). The aqueous phase is extracted with ether. The combined organic phases are washed with 10 ml of dilute hydrochloric acid and then dried over Na2SO4. After the solution has been evaporated down in vacuo it is purified by chromatography. Yield: 0.06 g. M.p. 238° C.

reactant | 6-bromo-4-methyl-4,5-dihydro-1,3-dithia-4-aza-acenaphthylene-3,3-dioxide | 1 g | BrC1=C2CN(S(C3=CSC(C=C1)=C32)(=O)=O)C | C10H8BrNO2S2
reactant | copper (I) cyanide | 0.32 g | [Cu]C#N
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonia | 10 ml | N | H3N
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-methyl-3,3-dioxo-4,5-dihydro-3H-1,3-dithia-4-aza-acenaphthylene-6-carbonitrile | CN1S(C2=CSC3=CC=C(C(C1)=C32)C#N)(=O)=O | C11H8N2O2S2
